US07683096B2
100 ml of toluene and 5 g of thionyl chloride were added to the crude product of m-isobutyrylbenzoic acid obtained in the above step (1), and the mixture was reacted under refluxing for 1 hour. After completion of the reaction, excess thionyl chloride was distilled off to obtain a toluene solution of crude m-isobutyrylbenzoic acid chloride.

reactant | thionyl chloride | 5 g | S(=O)(Cl)Cl | Cl2OS
reactant | m-isobutyrylbenzoic acid | C(C(C)C)(=O)C=1C=C(C(=O)O)C=CC1 | C11H12O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | m-isobutyrylbenzoic acid chloride | C(C(C)C)(=O)C=1C=C(C(=O)Cl)C=CC1 | C11H11ClO2
